US09278089B2
Preparation of (E)-N-(4-(1-(2(N-hydroxycarbamimidoyl)hydrazono)ethylphenyl)-5-methoxy-1H-indole-2-carboxamide
5-Methoxy-1H-indole-2-carboxylic acid (4-acetyl-phenyl)-amide, made from 5-Methoxy-1H-indole-2-carboxylic acid and 4-acetyl phenylamine, and N-hydroxy-N′-aminoguanidine PTSA salt, prepared by following method discussed in Tai, et al. (J. Med. Chem. (1983) 26:1326-1329) were combined according to synthetic scheme, to obtain the pure product after purification by reverse phase HPLC: tR 20.5 min (20-60% CH3CN in H2O, 25 min); MS (m/z) 381 (MH+).

reactant | 5-Methoxy-1H-indole-2-carboxylic acid (4-acetyl-phenyl)-amide | C(C)(=O)C1=CC=C(C=C1)NC(=O)C=1NC2=CC=C(C=C2C1)OC | C18H16N2O3
reactant | 5-Methoxy-1H-indole-2-carboxylic acid | COC=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO3
reactant | 4-acetyl phenylamine | C(C)(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | N-hydroxy-N′-aminoguanidine PTSA | ONC(=N)NN.CC=1C=CC(=CC1)S(=O)(=O)O
product | 4-(1-(2(N-hydroxycarbamimidoyl)hydrazono)ethylphenyl)-5-methoxy-1H-indole-2-carboxamide | ONC(=N)NN=C(C)C1=C(C=CC=C1)C1=C2C=C(NC2=CC=C1OC)C(=O)N | C19H20N6O3
